US05840732
ii) Synthesis of 5-butylidene-3-[5-(imidazo[1,2-a]pyridin-5-yl)pentyl]thiazolidine-2,4-dione hydrochloride
To a solution of 1.11 g (3.11 mmol) of 5-butylidene-3-[5-(imidazo[1,2-a]pyridin-5-yl)pentyl]thiazolidine-2,4-dione in 50 ml of methanol, 0.4 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 1.18 g (96%, light yellow oily substance) of the desired product.

reactant | 5-butylidene-3-[5-(imidazo[1,2-a]pyridin-5-yl)pentyl]thiazolidine-2,4-dione | 3.11 mmol, 1.11 g | C(CCC)=C1C(N(C(S1)=O)CCCCCC1=CC=CC=2N1C=CN2)=O | C19H23N3O2S
reactant | hydrochloric acid | 0.4 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 5-butylidene-3-[5-(imidazo[1,2-a]pyridin-5-yl)pentyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCC)=C1C(N(C(S1)=O)CCCCCC1=CC=CC=2N1C=CN2)=O | InChI=1S/C19H23N3O2S.ClH/c1-2-3-10-16-18(23)22(19(24)25-16)13-6-4-5-8-15-9-7-11-17-20-12-14-21(15)17;/h7,9-12,14H,2-6,8,13H2,1H3;1H
